US04042694
5,5-Dimethyl-10- [4-(morpholino)butyryloxy]-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d] pyridine dihydrochloride (SP-112)
4.0 g. (10.1 mm.) of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, 2.10 g. (10.1 mm.) of γ-morpholinobutyric acid hydrochloride and 2.18 g. (10.6 mm.) of dicyclohexylcarbodiimide were added to 200 ml. of methylene chloride. The reaction mixture was stirred at room temperature for 16 hours and after cooling the by-product of dicyclohexylurea was removed by suction filtration. The mother liquor was evaporated to give a residue which after the usual work-up was converted to a dihydrochloride by the addition of an ether solution of hydrogen chloride. Recrystallization from methylene chloride/diethyl ether gave a total of 3.23 g. (52%), m.p. 154°-160° C. The nuclear magnetic resonance and infrared spectra were in agreement with the proposed structure; the material was pure by thin layer chromatography (10% MeOH/CHCl3).

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C2=C1CCN(C2)CC#C)C | C26H37NO2
reactant | γ-morpholinobutyric acid hydrochloride | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrogen chloride | Cl | ClH
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-10- [4-(morpholino)butyryloxy]-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d] pyridine dihydrochloride | Cl.Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2CCOCC2)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C34H50N2O4.2ClH/c1-7-9-10-12-25(3)26(4)27-22-30(39-32(37)13-11-16-35-18-20-38-21-19-35)33-28-24-36(15-8-2)17-14-29(28)34(5,6)40-31(33)23-27;;/h2,22-23,25-26H,7,9-21,24H2,1,3-6H3;2*1H
